US04537903
Ethyl o-bromocinnamate (66.3 g; 260 mM) was dissolved in 750 ml of anhydrous toluene under nitrogen in a three-neck round bottom flask equipped with addition funnel and condensor. A toluene solution of diisobutylaluminum hydride (520 mM; 1.53 M) was transferred via canula to the addition funnel and then added dropwise to the reaction mixture, which had been chilled to -78°. After the addition was completed the reaction was warmed to ambient temperature over a 1.5 hour period and quenched by the dropwise addition of 50 ml of water. Some cooling was required. The resulting emulsion was added to 640 ml of 2N aqueous hydrochloric acid. After partitioning, the slightly acidic (pH 5) aqueous layer was extracted twice with ether. The combined organic fractions were dried (MgSO4), filtered (fritted funnel), and evaporated to afford an oil. The oil was chromatographed in two portions on the Waters Prep 500 equipped with two cartridges eluting with a total of two gallons of 35% ethyl acetate in hexane. This produced 33.8 g (61% yield) of o-bromocinnamylalcohol. NMR (CDCl3): δ6.8-7.8 (m; 5H); 6.0-6.6 (AB; 1H); 4.2-4.4 (brd.; 2H); 2-2.6 (brs; 1H).

reactant | Ethyl o-bromocinnamate | 260 mM, 66.3 g | BrC1=C(C=CC(=O)OCC)C=CC=C1 | C11H11BrO2
reactant | diisobutylaluminum hydride | 520 mM | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | o-bromocinnamylalcohol | 33.8 g, 61% yield | BrC1=C(C=CCO)C=CC=C1 | C9H9BrO
